US07718693B2
N-{[2-Chloro-3-(trifluoromethyl)phenyl]methyl}-1-ethyl-4,4-dimethyl-5-oxoprolinamide was prepared in a manner analogous to that described above for the synthesis of N-[(2-chloro-4-fluorophenyl)methyl]-1-ethyl-4,4-dimethyl-5-oxoprolinamide (E130) but using {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine in the place of [(2-chloro-4-fluorophenyl)methyl]amine.

reactant | N-[(2-chloro-4-fluorophenyl)methyl]-1-ethyl-4,4-dimethyl-5-oxoprolinamide | ClC1=C(C=CC(=C1)F)CNC([C@H]1N(C(C(C1)(C)C)=O)CC)=O | C16H20ClFN2O2
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
product | N-{[2-Chloro-3-(trifluoromethyl)phenyl]methyl}-1-ethyl-4,4-dimethyl-5-oxoprolinamide | ClC1=C(C=CC=C1C(F)(F)F)CNC([C@H]1N(C(C(C1)(C)C)=O)CC)=O | C17H20ClF3N2O2
